US07956069B2
Preparation of ethyl 4-[(3aS,7aS)-3-allyl-2-oxooctahydro-1H-benzimidazol-1-yl]-1,4′-bipiperidine-1′-carboxylate
(3aS,7aS)-1-allyl-3-piperidin-4-yloctahydro-2H-benzimidazol-2-one (183 mg, 0.69 mmol) was dissolved in MeOH (2 mL) and ethyl 4-oxopiperidine-1-carboxylate (100 μL, 0.66 mmol) was added. A solution of sodium cyanoborohydride (82 mg, 1.19 mmol) and zinc chloride (47 mg, 0.34 mmol) in MeOH (1 mL) was then added drop wise at room temperature. The mixture was then stirred for 3 hours and then more sodium cyanoborohydride (40 mg) was added and the mixture stirred at room temperature over night. The solvent was then removed under reduced pressure and the residue was diluted in dichloromethane (80 mL). Washed with 1N NaOH (5 mL) and brine, dried and concentrated in vacuo. The residue was purified by high pH prep LCMS to provide the title compound (120 mg). 1H NMR (400 MHz, METHANOL-D4) δ ppm 1.24 (t, J=7.03 Hz, 3H), 1.28-1.48 (m, 6H), 1.53-1.64 (m, 1H), 1.65-1.74 (m, 1H), 1.77-1.99 (m, 6H), 1.99-2.10 (m, 1H), 2.22-2.36 (m, 3H), 2.42-2.58 (m, 1H), 2.69-2.86 (m, 3H), 2.89-3.11 (m, 3H), 3.56-3.71 (m, 1H), 3.72-3.78 (m, 2H), 4.09 (q, J=7.16 Hz, 2H), 4.17 (d, J=13.28 Hz, 2H), 5.03-5.26 (m, 2H), 5.62-5.84 (m, 1H). MS (M+1): 419.2

reactant | (3aS,7aS)-1-allyl-3-piperidin-4-yloctahydro-2H-benzimidazol-2-one | 0.69 mmol, 183 mg | C(C=C)N1C(N([C@@H]2[C@@H]1CCCC2)C2CCNCC2)=O | C15H25N3O
reactant | ethyl 4-oxopiperidine-1-carboxylate | 0.66 mmol, 100 μL | O=C1CCN(CC1)C(=O)OCC | C8H13NO3
reactant | sodium cyanoborohydride | 1.19 mmol, 82 mg | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 40 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
solvent | MeOH | 1 mL | CO | CH4O
catalyst | zinc chloride | 0.34 mmol, 47 mg | [Cl-].[Zn+2].[Cl-]
product | ethyl 4-[(3aS,7aS)-3-allyl-2-oxooctahydro-1H-benzimidazol-1-yl]-1,4′-bipiperidine-1′-carboxylate | 120 mg | C(C=C)N1C(N([C@@H]2[C@@H]1CCCC2)C2CCN(CC2)C2CCN(CC2)C(=O)OCC)=O | C23H38N4O3
